US07531663B2
0.457 g (19.8 mmol) of sodium is added at 20° C. under an argon atmosphere to 60 cm3 of methanol. After complete dissolution, 1.79 g (18.75 mmol) of guanidine hydrochloride are added. After stirring at 20° C. for 2 hours, the reaction mixture is filtered under an argon atmosphere. The filtrate is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is dissolved in 20 cm3 of 1,2-dimethoxyethane. 1.2 g of 3-chlorocarbonyl-1-(isoquinol-1-yl)-5-methyl-1H-indole hydrochloride, suspended in 40 cm3 of 1,2-dimethoxyethane, are subsequently added at 20° C. under an argon atmosphere. After stirring at 20° C. for 17.5 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is triturated in 20 cm3 of water. After stirring at 22° C. for 1 hour, the suspension is filtered and then dried to give a beige-coloured solid which is purified by flash chromatography [eluent: cyclohexane/ethyl acetate (7/3 by volume) and then dichloromethane/methanol/20% aqueous ammonia (18/3/0.5 by volume)]. After concentrating the fractions under reduced pressure, 1.2 g of a beige-coloured solid are obtained, which solid is triturated in 12 cm3 of N hydrochloric acid for 1 hour. After filtering off, the residue is recrystallised under hot conditions from 80 cm3 of methanol to give 0.885 g of 3-guanidinocarbonyl-1-(isoquinol-1-yl)-5-methyl-1H-indole hydrochloride in the form of beige-coloured crystals melting at 268° C. IR spectrum (KBr): 3350, 3092, 1693, 1625, 1524, 1462, 1406, 1216 and 832 cm−1.

reactant | sodium | 19.8 mmol, 0.457 g | [Na] | Na
reactant | methanol | 60 cm3 | CO | CH4O
reactant | guanidine hydrochloride | 18.75 mmol, 1.79 g | Cl.NC(=N)N
reactant | 3-chlorocarbonyl-1-(isoquinol-1-yl)-5-methyl-1H-indole hydrochloride | 1.2 g | Cl.ClC(=O)C1=CN(C2=CC=C(C=C12)C)C1=NC=CC2=CC=CC=C12
solvent | 1,2-dimethoxyethane | 20 cm3 | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 40 cm3 | COCCOC | C4H10O2
product | 3-guanidinocarbonyl-1-(isoquinol-1-yl)-5-methyl-1H-indole hydrochloride | 0.885 g | Cl.N(C(=N)N)C(=O)C1=CN(C2=CC=C(C=C12)C)C1=NC=CC2=CC=CC=C12 | InChI=1S/C20H17N5O.ClH/c1-12-6-7-17-15(10-12)16(19(26)24-20(21)22)11-25(17)18-14-5-3-2-4-13(14)8-9-23-18;/h2-11H,1H3,(H4,21,22,24,26);1H
